US07560551B2
To a solution of di-tert-butyl 3-(4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylamino)propyl phosphate (95 mg, 0.13 mmol) in 1,4-dioxane (3.7 ml, 0.04 M) under nitrogen was added 4M HCl in Dioxane (0.23 mL, 0.91 mmol). Reaction stirred at RT for 18 hrs. The mixture appeared heterogeneous, and the solids were filtered, washed with dioxane and ether, and dried under reduced pressure to afford 3-(4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylamino)propyl dihydrogen phosphate dihydrochloride as a yellow solid. Mass of the title compound was obtained as the free base: MS m/z=622 [M+H]+. Calc'd for C32H30C12N7O5P: 621.6.

reactant | di-tert-butyl 3-(4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylamino)propyl phosphate | 0.13 mmol, 95 mg | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCCNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C40H44N7O5P
reactant | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 0.04 M, 3.7 ml | O1CCOCC1 | C4H8O2
solvent | Dioxane | 0.91 mmol, 0.23 mL | O1CCOCC1 | C4H8O2
product | 3-(4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylamino)propyl dihydrogen phosphate dihydrochloride | Cl.Cl.P(=O)(OCCCNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1)(O)O | InChI=1S/C32H28N7O5P.2ClH/c40-45(41,42)43-21-7-19-34-32-35-20-17-28(37-32)27-12-6-18-33-31(27)44-24-15-13-23(14-16-24)36-30-26-11-5-4-10-25(26)29(38-39-30)22-8-2-1-3-9-22;;/h1-6,8-18,20H,7,19,21H2,(H,36,39)(H,34,35,37)(H2,40,41,42);2*1H
